US06770667B1
To a suspension of 2-bromo-5-methoxycarbonylthiophene (1.11 g) and phenylboronic acid (0.79 g) and tetrakis(triphenylphosphine)-palladium (289 mg) in 1,2-dimethoxyethane (10 ml) was added an aqueous solution of sodium carbonate (2M, 6.5 ml) followed by stirring at 80° C. for 18 hours. The mixture was diluted with dichloromethane and washed with water and brine. The mixture was dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with methanol. The resulting precipitate was collected by filtration, washed with methanol and diisopropyl ether and dried to give 2-methoxycarbonyl-5-phenylthiophene (918 mg, 84.2%).

reactant | 2-bromo-5-methoxycarbonylthiophene | 1.11 g | BrC=1SC(=CC1)C(=O)OC | C6H5BrO2S
reactant | phenylboronic acid | 0.79 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 6.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)-palladium | 289 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-methoxycarbonyl-5-phenylthiophene | 918 mg, 84.2% | COC(=O)C=1SC(=CC1)C1=CC=CC=C1 | C12H10O2S
